US04371605
N-2-Naphthalenesulfonyloxyphthalimide was prepared by the following procedure. To a flask equipped with a stirrer and addition funnel were added N-hydroxyphthalimide (8.15 g, 0.050 mol), 2-naphthalenesulfonyl chloride (11.4 g, 0.050 mol) and 125 mL of THF. A solution of triethylamine (8 mL, 0.058 mol) and 25 mL of THF was added dropwise. After 1 h stirring, the reaction mixture was diluted with 200 mL of methylene chloride and the organic layer was washed successively with water, 3 percent aqueous sodium bicarbonate, and water. The organic layer containing crystallized product was evaporated leaving 16.8 g of an off-white solid. Recrystallization from toluene gave 12.33 g (69.8%) of white, crystalline N-2-naphthalenesulfonyloxyphthalimide: mp 223°-225°; nmr (CDCl3 -DMSO-d6) 8.8-7.7 (m), singlet at 7.9; uv (CH3CN) 220 (67,000), 234 (79,800), 279 (6880), 317 (1825), 331 nm (1950); ir (nujol) 1787 (m), 1737 (s), 1380 (m), 1190 (s), 965 (s); mass spectrum 353.0350 (calcd for C18H11NO5S: m+, 353.0357). Anal. Calcd for C18H11NO5S: C, 61.19; H, 3.14; N, 3.96; O, 22.64; S, 9.07. Found: C, 61.03, 61.01; H, 3.13, 3.35; N, 4.06, 3.98.

reactant | N-hydroxyphthalimide | 0.050 mol, 8.15 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 2-naphthalenesulfonyl chloride | 0.050 mol, 11.4 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | THF | 125 mL | C1CCOC1 | C4H8O
reactant | triethylamine | 0.058 mol, 8 mL | C(C)N(CC)CC | C6H15N
reactant | THF | 25 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | N-2-Naphthalenesulfonyloxyphthalimide | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)ON1C(C=2C(C1=O)=CC=CC2)=O | C18H11NO5S
